US09034880B2
Preparation of 2-(8-bromo-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(piperidin-1-yl)ethanone (Compound 516)
Sodium hydride (0.6 g, 15 mmol) washed with hexane for removal of oil and dried under vacuum. Then sodium hydride was taken in THF. To this solution 8-bromo-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (2 g, 7.5 mmol) in THF was added drop wise at 0° C. Then reaction mixture stirred for 0.5 h. The solution of 2-chloro-1-(piperidin-1-yl)ethanone (1.8 g, 11.3 mmol) in THF was added drop wise in reaction mixture. Then reaction mixture stirred at rt for 2 h. Reaction was monitored by TLC. After completion of the reaction, reaction mixture quench with ice-water. THF was evaporated and aqueous layer was extracted with ethyl acetate. Organic layer was dried over anhydrous sodium sulphate. The crude compound was washed with hexane and diethyl ether for removal of color impurities then recrystallized by using methanol to gives 1.5 g of desired compound then out of that 0.8 g compound was stirred in ethanolic HCl to give HCl salt of 2-(8-bromo-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(piperidin-1-yl)ethanone.

reactant | Sodium hydride | 15 mmol, 0.6 g | [H-].[Na+]
reactant | 8-bromo-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 7.5 mmol, 2 g | BrC1=CC=2C3=C(NC2C=C1)CCN(C3)C | C12H13BrN2
reactant | 2-chloro-1-(piperidin-1-yl)ethanone | 11.3 mmol, 1.8 g | ClCC(=O)N1CCCCC1 | C7H12ClNO
solvent | hexane | CCCCCC | C6H14
solvent | THF | C1CCOC1 | C4H8O
product | 2-(8-bromo-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(piperidin-1-yl)ethanone | 1.5 g | BrC1=CC=2C3=C(N(C2C=C1)CC(=O)N1CCCCC1)CCN(C3)C | C19H24BrN3O
